US06320061B1
In particular, the process of the invention may be applied to a methanolic solution of ascorbic acid or sodium ascorbate produced by esterification of 2-keto-L-gulonic acid in methanol, followed by cyclization with sodium bicarbonate to produce a feed composition to the solvent exchanger to produce an aqueous product of ascorbic acid or sodium ascorbate. The product may then be obtained from the aqueous stream by crystallization.

reactant | ascorbic acid | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | sodium ascorbate | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | methanol | CO | CH4O
product | 2-keto-L-gulonic acid | C([C@@H]([C@H]([C@@H](C(=O)C(=O)O)O)O)O)O | C6H10O7
